US04933453
3-[4-[1-(2,3-Dimethylphenyl)-4-piperazinyl]butyl]-4-thiazolidinone hydrochloride
To a solution of 3-(4-bromobutyl)-4-thiazolidinone (4.0 g) and 1-(2,3-dimethylphenyl)piperazine hydrochloride (3.8 g) in 100 ml of anhydrous CH3CN were added K2CO3 (9.3 g) and NaI (200 mg). The mixture was heated to 80° with stirring under N2.

reactant | 3-(4-bromobutyl)-4-thiazolidinone | 4.0 g | BrCCCCN1CSCC1=O | C7H12BrNOS
reactant | 1-(2,3-dimethylphenyl)piperazine hydrochloride | 3.8 g | Cl.CC1=C(C=CC=C1C)N1CCNCC1
reactant | K2CO3 | 9.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 200 mg | [Na+].[I-]
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 3-[4-[1-(2,3-Dimethylphenyl)-4-piperazinyl]butyl]-4-thiazolidinone hydrochloride | Cl.CC1=C(C=CC=C1C)N1CCN(CC1)CCCCN1CSCC1=O | InChI=1S/C19H29N3OS.ClH/c1-16-6-5-7-18(17(16)2)21-12-10-20(11-13-21)8-3-4-9-22-15-24-14-19(22)23;/h5-7H,3-4,8-15H2,1-2H3;1H
